US08278343B2
Preparation 6: 1-(2-Ethoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 2 using pyrrolidine-3-carboxylic acid ethyl ester (see Preparation 1) and 2-ethoxy-benzoyl chloride to afford the title compound as a pale yellow oil (5.13 g, 83%).

reactant | pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CNCC1 | C7H13NO2
reactant | 2-ethoxy-benzoyl chloride | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
product | 1-(2-Ethoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | 5.13 g, 83% | C(C)OC(=O)C1CN(CC1)C(C1=C(C=CC=C1)OCC)=O | C16H21NO4
